US05366987
(a) α-Cyano-N-(2,4,6-trimethoxyphenyl)benzene acetamide
Phenylacetonitrile (2.64 mL, 22.8 mol) was added dropwise to an ice-cooled solution of sodium hydride (0.91 g, 22.8 mmol) in dimethyl formamide (50 mL), and the mixture stirred for 15 minutes while allowing to warm to room temperature. 2,4,6-Trimethoxyphenyl-isocyanate (4.78 g, 22.8 mmol) was added portionwise over 2 minutes, and then the mixture was stirred vigorously for 0.5 hour and poured into water (200 mL). The solid obtained was washed with water (100 mL) and taken up in chloroform (1 L). The organic layer was separated and dried with MgSO4, filtered, and concentrated to yield a pale purple solid (6.13 g, 82%).

reactant | Phenylacetonitrile | 22.8 mol, 2.64 mL | C1(=CC=CC=C1)CC#N | C8H7N
reactant | sodium hydride | 22.8 mmol, 0.91 g | [H-].[Na+]
reactant | 2,4,6-Trimethoxyphenyl-isocyanate | 22.8 mmol, 4.78 g | COC1=C(C(=CC(=C1)OC)OC)N=C=O | C10H11NO4
reactant | water | 200 mL | O | H2O
solvent | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
product | α-Cyano-N-(2,4,6-trimethoxyphenyl)benzene acetamide | 6.13 g, 82% | C(#N)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C18H18N2O4
